US03985732
A mixture of 10 g. of ethyl N-(2-pyrrolidinylcarbonyl)-N-methylanthranilate and 200 ml. of 3N alcoholic hydrogen chloride is heated on the steam bath for 6 hours and then concentrated. The residue is purified by chromatography on a hexane/methanol/celite system and racemic 1,2,3,11a-tetrahydro-10-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11(10H)-dione is obtained.

reactant | ethyl N-(2-pyrrolidinylcarbonyl)-N-methylanthranilate | N1C(CCC1)C(=O)N(C=1C(C(=O)OCC)=CC=CC1)C | C15H20N2O3
reactant | hydrogen chloride | 3N | Cl | ClH
product | racemic 1,2,3,11a-tetrahydro-10-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11(10H)-dione | CN1C(C2N(C(C3=C1C=CC=C3)=O)CCC2)=O | C13H14N2O2
